US07435815B2
N,N-Diethyl-2-[p-tolyl-(3-trifluoromethyl-benzenesulfonyl)-amino]-acetamide
prepared by reaction of 2-bromo-N,N-diethylacetamide with p-toluidine and 3-trifluoromethyl-benzenesulfonyl chloride

reactant | 2-bromo-N,N-diethylacetamide | BrCC(=O)N(CC)CC | C6H12BrNO
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 3-trifluoromethyl-benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N,N-Diethyl-2-[p-tolyl-(3-trifluoromethyl-benzenesulfonyl)-amino]-acetamide | C(C)N(C(CN(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C)=O)CC | C20H23F3N2O3S
